US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (0.17 g, 0.41 mmol) was reacted with NBS (0.07 g, 0.41 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.13 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 0.41 mmol, 0.17 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)F | C17H14ClF2N3O2S
reactant | NBS | 0.41 mmol, 0.07 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.13 g, 65% | BrCC1=C(C(N=C(N1)C=1SC(=CN1)F)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C17H13BrClF2N3O2S
